US07910735B2
Production of methyl 3-chloromethyl-pyrazine-2-carboxylate (Compound No. 3-1)
Methyl 3-methylpyrazine-2-carboxylate (2.44 g, 16 mmol) was dissolved in chloroform (100 ml) and N-chlorosuccinimde (2.14 g, 16 mmol) was added thereto. Then, benzoyl peroxide (110 mg, 70%, 0.32 mmol) was added and refluxed under heating for 30 hours. The reaction solution was cooled, followed by removing undissolved substance by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by using silica gel chromatography (hexane:ethyl acetate=1:1) to obtain 1.55 g of the desired compound.

reactant | Methyl 3-methylpyrazine-2-carboxylate | 16 mmol, 2.44 g | CC=1C(=NC=CN1)C(=O)OC | C7H8N2O2
reactant | benzoyl peroxide | 0.32 mmol, 110 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-chloromethyl-pyrazine-2-carboxylate | 1.55 g, Yield: 52% | ClCC=1C(=NC=CN1)C(=O)OC | C7H7ClN2O2
